US05125954
Exo-2-[2,3-dihydrobenzofuran-3-yl-oxy]-1-methyl-4-(1-methylethyl)-7-oxabicyclo[2.2.1]heptane
2-ethenyl phenol was synthesized according to the procedure of Corson et al. (J. Org. Chem., 1958, 23, 544) and silated by standard procedures. 2-t-butyldimethylsiloxy styrene (550 mg, 2.03 mmoles) was dissolved in tetrahydrofuran (4.0 mL). Exo-1-methyl-4-(1-methylethyl)-7-oxabicyclo[2.2.1]heptane-2-ol (690 mg, 4.06 mmoles) and N-bromosuccinimide were added. One drop of perchloric acid (70%) was added. The reaction was stirred for 11/2 hrs after which time a 1M solution of tetrabutylammonium fluoride in THF (2.5 mL) (any fluoride source, such as KF, NaF, CaF2, HF will suffice) was added and the solution was stirred for an hour. The reaction mixture was diluted with diethyl ether and washed with H2O. The organic layer was dried over anhydrous Na2SO4, filtered, and concentrated. It was then chromatographed on SiO2 (10-20% Et2O/hexane) to obtain 210 mg of the desired product in about 95% purity.

reactant | 2-t-butyldimethylsiloxy styrene | 2.03 mmoles, 550 mg | O([Si](C)(C)C(C)(C)C)C1=C(C=C)C=CC=C1 | C14H22OSi
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | fluoride | [F-]
reactant | KF | [F-].[K+]
reactant | NaF | [F-].[Na+]
reactant | CaF2 | [F-].[F-].[Ca+2]
solvent | tetrahydrofuran | 4.0 mL | O1CCCC1 | C4H8O
catalyst | perchloric acid | One drop | Cl(=O)(=O)(=O)O | ClHO4
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-ethenyl phenol | C(=C)C1=C(C=CC=C1)O | C8H8O
